US08012956B2
Dimethyl 2,5-dimethylterephthalate (3.14 g, 14.1 mmol) was dissolved in dichloromethane (30 mL) and was cooled in an ice bath. Fuming nitric acid (7.6 mL) and concentrated sulfuric acid (0.92 mL) were added carefully, and the mixture was stirred for 1.75 h. The mixture was then quenched with water and diluted with dichloromethane. The aqueous portion was extracted with dichloromethane. The combined organic portion was dried over sodium sulfate, then filtered and concentrated to afford a yellow oil which was purified by column chromatography (silica gel, 10-20% ethyl acetate in hexanes) to afford dimethyl 2,5-dimethyl-3-nitroterephthalate (2.78 g, 10.4 mmol, 74% yield). 1H NMR (400 MHz, CDCl3): δ 7.85 (s, 1H), 3.94 (s, 3H), 3.89 (s, 3H), 2.49 (s, 3H), 2.46 (s, 3H); GCMS for C12H13NO6: 267 (M+).

reactant | Dimethyl 2,5-dimethylterephthalate | 14.1 mmol, 3.14 g | CC1=C(C(=O)OC)C=C(C(=C1)C(=O)OC)C | C12H14O4
reactant | nitric acid | 7.6 mL | [N+](=O)(O)[O-] | HNO3
reactant | sulfuric acid | 0.92 mL | S(O)(O)(=O)=O | H2O4S
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
product | dimethyl 2,5-dimethyl-3-nitroterephthalate | 10.4 mmol, 2.78 g, 74% yield | CC1=C(C(=O)OC)C=C(C(=C1[N+](=O)[O-])C(=O)OC)C | C12H13NO6
